US07759361B2
5.3 2-[(Ethyl-pyridin-4-ylmethyl-amino)-methyl]-1-aza-bicyclo[2.2.2]octan-3-one
To a stirred solution of 2-methylene-3-quinuclidinone hydrochloride (0.5 g, 0.0036 mol) in water (3 ml) N-(4-pyridylmethyl)ethylamine (0.49 g, 0.0036 mol), triethylamine (1.09 g, 0.0108 mol) and tetra-n-butyl ammonium bromide (116 mg, 0.00036 mol) were added and the reaction mixture were allowed to stir at 80° C. for 18 h. The completion of reaction was monitored by tlc. The reaction mixture was quenched with ice-cold water (10 ml), extracted with dichloromethane (2×50 ml), organic layers were washed with 10% NaHCO3 solution, brine and dried over sodium sulphate, filtered and concentrated to get the crude product which was purified as yellow solids (200 mg, 22%) by flash column chromatography on neutral silica gel using chloroform as eluent.

reactant | 2-methylene-3-quinuclidinone hydrochloride | 0.0036 mol, 0.5 g | Cl.C=C1N2CCC(C1=O)CC2
reactant | water | 0.0036 mol, 3 ml, 0.49 g | O | H2O
reactant | triethylamine | 0.0108 mol, 1.09 g | C(C)N(CC)CC | C6H15N
catalyst | tetra-n-butyl ammonium bromide | 0.00036 mol, 116 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-[(Ethyl-pyridin-4-ylmethyl-amino)-methyl]-1-aza-bicyclo[2.2.2]octan-3-one | C(C)N(CC1=CC=NC=C1)CC1N2CCC(C1=O)CC2 | C16H23N3O
